US06348474B1
1-(2,4-Dichlorobenzyl)-7-(ethoxycarbonyl)-2,3(1H,4H)-quinoxalinedione
To a solution of ethyl 4-amino3-(2,4-dichlorobenzylamino)benzoate (1.53 g) and dimethylaniline (0.71 g) in toluene was added oxalyl dichloride (0.51 ml). After stirring at room temperature for 1.5 hr, ice was added to the reaction mixture. The toluene layer was separated and washed with 6N hydrochloric acid. The toluene layer was concentrated, and the residue was washed with methyl t-butyl ether and dried to give the object compound (1.03 g) as white crystals.

reactant | ethyl 4-amino3-(2,4-dichlorobenzylamino)benzoate | 1.53 g | NC1=C(C=C(C(=O)OCC)C=C1)NCC1=C(C=C(C=C1)Cl)Cl | C16H16Cl2N2O2
reactant | dimethylaniline | 0.71 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | oxalyl dichloride | 0.51 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(2,4-Dichlorobenzyl)-7-(ethoxycarbonyl)-2,3(1H,4H)-quinoxalinedione | 1.03 g | ClC1=C(CN2C(C(NC3=CC=C(C=C23)C(=O)OCC)=O)=O)C=CC(=C1)Cl | C18H14Cl2N2O4
